* Z:\Synthdesign\preamp\VCA.asc
Q1 N001 N002 mid 0 2N2222
R1 Vout 0 10
V1 N001 0 15
Q2 0 N005 mid 0 2N2907
C1 Vout mid .0022
Q3 N004 N004 N005 0 2N2222
R2 N001 N002 500
Q4 N002 N002 N004 0 2N2222
V2 N003 0 SINE(1.5 1.5 1000)
C2 N007 N006 .000022
R3 N007 0 4000
R4 N001 N007 14000
Q7 N005 N007 N008 0 2N2222
R5 N008 0 220
R6 N003 N006 3000
R7 N006 0 14000
Q5 N009 N011 0 0 2N2222
V3 N010 0 {vctrl}
R8 N010 N011 1000
R9 N006 N009 2000
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~1\LTC\LTSPIC~1\lib\cmp\standard.bjt
.tran 0 .05 0
.step param vctrl .5 1 .1
.backanno
.end
