* C:\Users\Marshall\Desktop\compressor\Draft1.asc
V1 N001 0 PULSE(0 5 0 0 0 100m 200m 3)
R1 N002 N003 10k
R2 N003 0 1k
C1 N003 0 22µ
D1 N001 N002 1N914
.model D D
.lib D:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran .5
.backanno
.end
