* D:\Engineering\Circuit Repository\Circuits\Opto LED bias\_Simulation\Opto LED bias.asc
XU1 N004 N002 N003 opamp Aol=100K GBW=10Meg
R4 N002 N001 10
V5 N003 N004 1.8
R5 N004 0 3320
V1 N001 0 PULSE(0 12 0 .1 .1 .001 .2 1)
.tran 0 .1 0
.lib opamp.sub
.backanno
.end
