* D:\Engineering\Circuit Repository\Modules\VCA_1\Simulation\Opto-reciever.asc
V1 N003 0 PULSE(0 2 0 .1 .1 0 .2 1)
XU1 N001 0 N002 opamp Aol=100K GBW=10Meg
R4 N001 N003 200k
R3 N002 N001 {r_opto}
V6 -12v 0 -12
V5 12v 0 12
.dc v1 0 5 
.lib opamp.sub
.step param r_opto 200k 500k 100k
* wavefile="441khz.wav"
.backanno
.end
